US07399775B2
N-[4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)butyl]nicotinamide Hydrochloride
Under a nitrogen atmosphere and 0° C., N-methylmorpholine (44.6 μl, 0.406 mmol) and nicotinic acid chloride hydrochloride (36.1 mg, 0.203 mmol) were added to a dichloromethane solution (4 ml) of 4-[(4-chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)butylamine hydrochloride (67.0 mg, 0.169 mmol). After stirring at room temperature for 3 hours, the reaction mixture was diluted with dichloromethane, washed successively with a saturated aqueous solution of ammonium chloride, water and brine, dried over magnesium sulfate and then, concentrated. The residue thus obtained was subjected to flash chromatography on a silica gel column, and the fraction obtained from the hexane:ethyl acetate=1:3 eluate was concentrated. The resulting solid was dissolved in ethanol. To the resulting solution was added 1N hydrochloric acid-ethanol (0.5 ml), followed by concentration. The solid thus obtained was recrystallized from ethanol-ethyl acetate, whereby the title compound (67.1 mg, 0.134 mmol, 79%) was obtained as a white solid.

reactant | N-methylmorpholine | 0.406 mmol, 44.6 μl | CN1CCOCC1 | C5H11NO
reactant | nicotinic acid chloride hydrochloride | 0.203 mmol, 36.1 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 4-[(4-chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)butylamine hydrochloride | 0.169 mmol, 67.0 mg | Cl.ClC1=CC=C(C=C1)S(=O)(=O)C(CCCN)C1=C(C=CC(=C1)F)F
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
product | N-[4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)butyl]nicotinamide Hydrochloride | 0.134 mmol, 67.1 mg, 79% | Cl.ClC1=CC=C(C=C1)S(=O)(=O)C(CCCNC(C1=CN=CC=C1)=O)C1=C(C=CC(=C1)F)F | InChI=1S/C22H19ClF2N2O3S.ClH/c23-16-5-8-18(9-6-16)31(29,30)21(19-13-17(24)7-10-20(19)25)4-2-12-27-22(28)15-3-1-11-26-14-15;/h1,3,5-11,13-14,21H,2,4,12H2,(H,27,28);1H
